US06103708
2-Benzyl-3-[2-(4-methoxy-phenyl)-ethyl]-benzo[b]thiophene
At ambient temperature, a mixture of cis and trans-2-benzyl-3-[2-(4-methoxy-phenyl)-vinyl]-benzo[b]thiophene in EtOAc and 10% palladium on carbon was stirred under H2 (atmospheric conditions). The reaction was filtered and the filtrate concentrated to give the title compound as a white solid, mp 68-70° C. 1H NMR; consistent. mass spectrum (EI) m/z 358 (M+). Anal. Calcd. for C24H22OS: C, 80.41; H, 6.19; N, 0.00. Found: C, 80.20; H, 6.18; N, 0.03.

reactant | trans-2-benzyl-3-[2-(4-methoxy-phenyl)-vinyl]-benzo[b]thiophene | C(C1=CC=CC=C1)C1=C(C2=C(S1)C=CC=C2)\C=C\C2=CC=C(C=C2)OC | C24H20OS
solvent | EtOAc | CCOC(=O)C | C4H8O2
catalyst | palladium on carbon | [Pd] | Pd
product | 2-Benzyl-3-[2-(4-methoxy-phenyl)-ethyl]-benzo[b]thiophene | C(C1=CC=CC=C1)C1=C(C2=C(S1)C=CC=C2)CCC2=CC=C(C=C2)OC | C24H22OS
